US05360799
a) Ethyl 3-[4-(N,N-diethylamino)anilino]-2-cyano-3-(methylthio)acrylate
21.7 g of ethyl 2-cyano-3,3-bis(methylthio)acrylate and 16.5 g of 4-(N,N-diethylamino)aniline are heated for 2 hours at 120° C. The residue is purified by chromatography on a silica column, the eluent being a toluene/ethanol (97/3) mixture; the expected product is recrystallised from cyclohexane. M.p.=100° C. (Yield 81%).

reactant | ethyl 2-cyano-3,3-bis(methylthio)acrylate | 21.7 g | C(#N)C(C(=O)OCC)=C(SC)SC | C8H11NO2S2
reactant | 4-(N,N-diethylamino)aniline | 16.5 g | C(C)N(CC)C1=CC=C(N)C=C1 | C10H16N2
product | Ethyl 3-[4-(N,N-diethylamino)anilino]-2-cyano-3-(methylthio)acrylate | Yield 81% | C(C)N(CC)C1=CC=C(NC(=C(C(=O)OCC)C#N)SC)C=C1 | C17H23N3O2S
